US03991194
2-Allyl-5,5-diethyl-8-(3-methyl-2-octyl)-10-[4-(piperidino) butyryloxy]-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]-pyridine hydrochloride
2-Allyl-5,5-diethyl-8-(3-methyl-2-octyl)-10-hydroxy-1,2,3,4-tetrahydro-5H-[1]-benzopyrano[3,4-d]-pyridine, γ-piperidinobutyric acid hydrochloride and dicyclohexylcarbodiimide are reacted in equimolar amounts to produce the desired product.

reactant | 2-Allyl-5,5-diethyl-8-(3-methyl-2-octyl)-10-hydroxy-1,2,3,4-tetrahydro-5H-[1]-benzopyrano[3,4-d]-pyridine | C(C=C)N1CCC2=C(C1)C1=C(OC2(CC)CC)C=C(C=C1O)C(C)C(CCCCC)C | C28H43NO2
reactant | γ-piperidinobutyric acid hydrochloride | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 2-Allyl-5,5-diethyl-8-(3-methyl-2-octyl)-10-[4-(piperidino) butyryloxy]-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]-pyridine hydrochloride | Cl.C(C=C)N1CCC2=C(C1)C1=C(OC2(CC)CC)C=C(C=C1OC(CCCN1CCCCC1)=O)C(C)C(CCCCC)C | InChI=1S/C37H58N2O3.ClH/c1-7-11-13-17-28(5)29(6)30-25-33(41-35(40)18-16-23-38-21-14-12-15-22-38)36-31-27-39(20-8-2)24-19-32(31)37(9-3,10-4)42-34(36)26-30;/h8,25-26,28-29H,2,7,9-24,27H2,1,3-6H3;1H
